US07700641B2
A. Synthesis of 3-(5-fluoro-2-hydroxyphenyl)-3-hydroxy-1-pentyl-1,3-dihydro-2H-indol-2-one
Following the procedure as described in PREPARATION 1C, and making non-critical variations to replace 4-bromo-1-pentyl-1H-indole-2,3-dione with 1-pentyl-1H-indole-2,3-dione, and 1,3-benzodioxol-5-ol with 4-fluorophenol, the title compound was obtained (53%): 1H NMR (300 MHz, CDCl3) δ 9.42-9.14 (br, 1H), 7.53-6.86 (m, 6H), 6.56-6.48 (m, 1H), 4.58-4.28 (br, 1H), 3.79-3.58 (m, 2H), 1.77-1.61 (m, 2H), 1.41-1.24 (m, 4H), 0.87 (t, 3H); MS (ES+) m/z 312 (M−17), 352 (M+23).

reactant | 4-bromo-1-pentyl-1H-indole-2,3-dione | BrC1=C2C(C(N(C2=CC=C1)CCCCC)=O)=O | C13H14BrNO2
reactant | 1-pentyl-1H-indole-2,3-dione | C(CCCC)N1C(C(C2=CC=CC=C12)=O)=O | C13H15NO2
reactant | 1,3-benzodioxol-5-ol | O1COC2=C1C=CC(=C2)O | C7H6O3
reactant | 4-fluorophenol | FC1=CC=C(C=C1)O | C6H5FO
product | 3-(5-fluoro-2-hydroxyphenyl)-3-hydroxy-1-pentyl-1,3-dihydro-2H-indol-2-one | FC=1C=CC(=C(C1)C1(C(N(C2=CC=CC=C12)CCCCC)=O)O)O | C19H20FNO3
